US06916850B2
To a suspension of 2-mercaptobenzselenazole (418 mg, 2 mmol) in 4 mL of MeCN and 4 mL of dichloromethane with vigorous stirring was added dropwise, ethyl bromopyruvate (290 mg, 2 mmol). The resulting mixture was stirred for 5 h. It was allowed to settle for 30 min and then filtered. The solid was washed with EtOAc/hexanes (1:1, 2×8 mL) and dried in high vacuum to afford 3-(benzoselenazol-2-ylsulfanyl)-2-oxo-propionic acid ethyl ester as a white powder (582 mg, 89%). 1H-NMR (DMSO-d6, 300 MHz) δ (ppm): 8.14-8.10 (m, 1H), 7.95-7.92 (m, 0.7H), 7.75-7.73 (m, 0.3H), 7.52-7.45 (m, 1H), 7.36-7.30 (m,1H), 7.07 (s, 0.7H), 4.69 (s, 0.6), 4.37-4.27 (m, 2H), 1.32 (t, J=7 Hz, 3H). MS(ESI) m/z: 330(M+H+, 55), 348 M++H2O, 58), 362 (M++MeOH, 100).

reactant | 2-mercaptobenzselenazole | 2 mmol, 418 mg | SC=1[Se]C2=C(N1)C=CC=C2 | C7H5NSSe
reactant | ethyl bromopyruvate | 2 mmol, 290 mg | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | MeCN | 4 mL | CC#N | C2H3N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 3-(benzoselenazol-2-ylsulfanyl)-2-oxo-propionic acid ethyl ester | 582 mg, 89% | C(C)OC(C(CSC=1[Se]C2=C(N1)C=CC=C2)=O)=O | C12H11NO3SSe
